Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodinated Contrast Media - IV Dye
 
Attending: ___.
 
Chief Complaint:
Syncope
 
Major Surgical or Invasive Procedure:
Permanent pacemaker placed on ___

 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
Patient has significant dementia. Most of history obtained from 
prior consult notes and patient's daughter.

___ with h/o Alzheimer's dementia and DVT in ___ (LLE, off 
anticoagulation) presented from PCP office after recurrent 
syncope. 1 month ago the patient had multiple episodes of 
dizziness, lightheadedness and presyncope which prompted an 
admission to ___ on ___. These episodes were associated 
with shaking, eye rolling and decreased responsiveness lasting 
for less than a minute. She is incontinent at baseline. No 
tongue biting. Her son is a neuro___ and based on witnessing 
one of these episodes was concerned for seizure. She was 
discharged with ___ of Hearts monitor and keppra for possible 
seizure disorder.

The evening prior to admission, the patient had a similar 
episode and was associated with involuntary movements of her 
extremities and unresponsiveness which last about 30 seconds 
later followed by confusion. The patient's daughter pushed the 
record button on her monitor. This revealed complete heart 
block. The patient went to her PCP who reviewed the ___ of 
Hearts and saw that she had developed CHB and therefore sent her 
to ___ for possible PPM placement. 

EP evaluation determined that at the time of her syncopal event 
she had developed paroxysmal AV block preceded by a fusion beat 
with asystole for about ~ 15 seconds. She consequently underwent 
dual-chamber PPM placement without complications. 

On the floor, she has no memory of her events. She denies CP, 
palpitations, dizziness, SOB, fevers, abdominal pain, n/v/d.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
 +Diabetes  
 +Hypertension  
 +Dyslipidemia  
 2. CARDIAC HISTORY  
 - CABG: None  
 - PERCUTANEOUS CORONARY INTERVENTIONS: None  
 - PACING/ICD: None  
 3. OTHER PAST MEDICAL HISTORY 
Dementia, AD type
L hip THA
Uterine CA s/p TAH
DVT not on anticoagulation

 
Social History:
___
Family History:
Per daughter one brother who died in his ___ of "heart 
disease) but 6 other healthy siblings and no other history of 
CVA or MI.  

 
Physical Exam:
ADMISSION EXAM:
VS: 97.6 128/72 62 18 97% RA 
GENERAL: NAD
HEENT: NCAT. Sclera anicteric. Conjunctivae noninjected.
NECK: No JVD 
CARDIAC: RRR, no m/r/g 
LUNGS: Lungs clear to auscultation without w/r/r
ABDOMEN: Soft, NTND. No HSM.  
EXTREMITIES: No c/c/e.

DISCHARGE EXAM
VS -  in chart
GENERAL: NAD
HEENT: NCAT. Sclera anicteric. Conjunctivae noninjected.
NECK: No JVD 
CARDIAC: RRR, no m/r/g 
LUNGS: Lungs clear to auscultation without w/r/r
ABDOMEN: Soft, NTND. No HSM.  
EXTREMITIES: No c/c/e.

 
Pertinent Results:
ADMISSION LABS

___ 02:06PM   GLUCOSE-178* UREA N-13 CREAT-0.7 SODIUM-137 
POTASSIUM-4.3 CHLORIDE-102 TOTAL CO2-26 ANION GAP-13
___ 02:06PM   CALCIUM-9.4 PHOSPHATE-3.1 MAGNESIUM-2.2
___ 02:06PM   WBC-6.8 RBC-4.31 HGB-12.8 HCT-39.8 MCV-92 
MCH-29.7 MCHC-32.2 RDW-13.9 RDWSD-47.7*

DISCHARGE LABS

___ 09:30AM BLOOD WBC-9.6 RBC-4.43 Hgb-13.2 Hct-41.5 MCV-94 
MCH-29.8 MCHC-31.8* RDW-13.9 RDWSD-48.1* Plt ___
___ 09:30AM BLOOD Glucose-289* UreaN-13 Creat-0.9 Na-136 
K-4.7 Cl-97 HCO3-23 AnGap-21*
___ 09:30AM BLOOD Calcium-9.4 Phos-3.6 Mg-2.___ with h/o Alzheimer's dementia and DVT in ___ (LLE, off 
anticoagulation) presenting with multiple syncopal events found 
to have CHB now s/p PPM placement.

# Syncope ___ CHB s/p PPM:
Patient presenting with syncope and found to have multiple 
seconds of asytole on ___ monitor. PPM placed ___ without 
complications. EP following recommended Keflex x3 days, L arm in 
sling for 24 hours. She had a post-procedure CXR that showed 
good placement without issues. Her keppra was continued for now 
(500 mg BID x3 days -- started ___ -- then 1000 mg BID) but 
neuro consult was deferred given likely cardiogenic syncope and 
she can pursue outpt workup

CHRONIC
# Alzheimer's dementia:cont donepezil
# HLDcontinue atorvastatin
# Glaucoma:continue latanoprost
# h/o DVT ___: no longer on anticoagulationm, subQ heparin 
while in house
========================================
TRANSITIONAL ISSUES

-Keflex x 3 days as post procedure
-Follow up with device clinic, cardiology, and neurology
-Consider whether she can stop Keppra
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LevETIRAcetam 500 mg PO BID 
2. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS 
3. Atorvastatin 10 mg PO QPM 
4. Donepezil 10 mg PO QHS 
5. Estrogens Conjugated 1 gm VG DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*12 Capsule Refills:*0 
2.  Atorvastatin 10 mg PO QPM  
3.  Donepezil 10 mg PO QHS  
4.  Estrogens Conjugated 1 gm VG DAILY  
5.  Fish Oil (Omega 3) 1000 mg PO DAILY  
6.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
7.  LevETIRAcetam 500 mg PO BID  
8.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis: 
Complete Heart Block 
 
Secondary diagnoses: 
Syncope 
Alzheimer's Dementia 

 
Discharge Condition:
Mental Status: Confused - always.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___ 
___. You had to stay in the hospital because of a 
complete heart block (this is a type of heart arrhythmia) and 
you had a permanent pacemaker placed on ___ for this. You 
tolerated the procedure well and the chest x-ray after the 
procedure showed no issues. It was felt safe for you to go home.

Because of this procedure, you should take Keflex at home for 3 
days.
You should follow up in device clinic.
You should follow up with cardiology.
You should follow up with neurology to discuss whether you still 
need Keppra.

You should return to the hospital if you have any chest pain, 
shortness of breath, palpitations, fevers > 100.4, redness or 
drainage at the procedure site. 

Sincerely,
Your ___ Team
 
Followup Instructions:
___